US09233920B2
To a solution of 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione (20 mg, prepared according to the literature: Org. Lett., 2010, 12 (23), 5450-5453) in 1,2-dichloroethane (1.5 mL) under argon, was added 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (300 mg) and nitromethane (0.35 ml). The solution was refluxed for 24 hours then more 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione (20 mg) was added. The solution was refluxed for 48 hours then more nitromethane (0.35 mL) and 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione (25 mg) were added. The solution was refluxed for another 16 hours and then the heating was stopped. The reaction mixture was cooled to room temperature and water was added. The resulting mixture was extracted with dichloromethane and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(S)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (127 mg). Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol:diethylamine=90:10:0.1, 1 ml/min, retention time 7.52 minutes (major enantiomer), 6.30 minutes (minor enantiomer) indicated that the reaction proceeded with 93% enantioselectivity in favor of the S enantiomer.

reactant | 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione | FC(C=1C=C(C=C(C1)C(F)(F)F)NC=1C(C(C1N[C@H]([C@@H]1N2CC(C(C1)CC2)C=C)C2=CC=NC1=CC=C(C=C21)OC)=O)=O)(F)F | C32H28F6N4O3
reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | nitromethane | 0.35 ml | [N+](=O)([O-])C | CH3NO2
reactant | 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione | 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC=1C(C(C1N[C@H]([C@@H]1N2CC(C(C1)CC2)C=C)C2=CC=NC1=CC=C(C=C21)OC)=O)=O)(F)F | C32H28F6N4O3
reactant | nitromethane | 0.35 mL | [N+](=O)([O-])C | CH3NO2
reactant | 3-(3,5-Bis-trifluoromethyl-phenylamino)-4-{[(S)-(6-methoxy-quinolin-4-yl)-((R)-5-vinyl-1-aza-bicyclo[2.2.2]oct-2-yl)-methyl]-amino}-cyclobut-3-ene-1,2-dione | 25 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC=1C(C(C1N[C@H]([C@@H]1N2CC(C(C1)CC2)C=C)C2=CC=NC1=CC=C(C=C21)OC)=O)=O)(F)F | C32H28F6N4O3
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
product | 4-[(S)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 127 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
